US04920119
1.5 g of 1-(4-methoxyphenyl)-5-amino-4-pyrazolecarbonitrile were stirred at 10°-15° C. with 10 ml of concentrated sulphuric acid until all of the solid had dissolved. The mixture was poured on to 60 g of crushed ice and made basic with concentrated ammonia solution. The precipitated product was filtered off, washed with water and recrystallized from ethanol to give 900 mg of 1-(4-methoxyphenyl)-5-amino-4-pyrazolecarboxamide of melting point 213°-215° C.

reactant | 1-(4-methoxyphenyl)-5-amino-4-pyrazolecarbonitrile | 1.5 g | COC1=CC=C(C=C1)N1N=CC(=C1N)C#N | C11H10N4O
reactant | ammonia | N | H3N
reactant | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 1-(4-methoxyphenyl)-5-amino-4-pyrazolecarboxamide | 900 mg | COC1=CC=C(C=C1)N1N=CC(=C1N)C(=O)N | C11H12N4O2
